US07585874B2
2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester
As described for Example 1, 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (280 mg, 1.0 mmol) was converted, using methyl 2-aminopyridine-4-carboxylate instead of 2-aminopyridine, to the title compound (194 mg, 58%) which was obtained as a yellow foam. MS: m/e=334.1 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | methyl 2-aminopyridine-4-carboxylate | NC1=NC=CC(=C1)C(=O)OC | C7H8N2O2
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 194 mg, 58% | COC(=O)C1=CC=2N(C=C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C19H15N3O3
